US04914224
[8-1] Synthesis of ethyl (s)-2-ethoxypropionate
A mixture of 20 g of (s)-(-)-ethyl lactate, 100 ml of N,N'-dimethylformamide, 38 g of ethyl iodide and 30 g of silver oxide was stirred at room temperature for 40 hours. The insoluble materials were separated by filtration and water and hexane were added to the filtrate to separate N,N'-dimethylformamide. The aqueous layer was subsequently extracted twice with hexane, and the hexane layers were dried over anhydrous sodium sulfate. The product was distilled under reduced pressure to give 18.5 g of a fraction having a boiling point of 86°-88° C./75 mmHg. Nuclear magnetic resoanance spectroscopy led to the determination that this fraction was the desired product.

reactant | (s)-(-)-ethyl lactate | 20 g | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | ethyl iodide | 38 g | C(C)I | C2H5I
catalyst | silver oxide | 30 g | [Ag]=O
solvent | N,N'-dimethylformamide | 100 ml | CN(C)C=O | C3H7NO
product | ethyl (s)-2-ethoxypropionate | C(C)O[C@H](C(=O)OCC)C | C7H14O3
